**********************************************************
* THIS FILE IS GENERATED BY AIVALANCHE
* FILE ID: 8
* SIMULATION TYPE: dc_list
**********************************************************

* Define the temperature
.TEMP 25.0

* Include the dut file
.INCLUDE /home/gazi/Desktop/Work/custom_packages/aivalanche/aivalanche_app/src/aivalanche_app/data_store/projects/projekti_1.gazi.20bf7dd9-e8f6-4d35-86d2-f717906dc109/common/model_files/dut_1.cir

** Start testbenches

********************* dut testbench 1_4 *********************
e_ds_1_4 d_1_4 0 v_sweep 0 1
v_gs_1_4 g_1_4 0 1.0
v_s_1_4 s_1_4 0 0
v_bs_1_4 b_1_4 0 0.0
x_1_4 d_1_4 g_1_4 s_1_4 b_1_4 dut w=1e-05 l=1e-05 m=1.0
*************************************************************

** End testbenches

* Declare the v_sweep, which will change during the simulation.
v_sweep v_sweep 0 0

********** Start of control section **********
.control

** Model parameters start
alterparam dut a0 = 1.7502935067547114
alterparam dut a1 = 0.04864144436176285
alterparam dut a2 = 0.8703401729246839
alterparam dut acde = 0.9684340850311655
alterparam dut ags = 0.11771827535360713
alterparam dut cf = 2.023698649415302e-11
alterparam dut cgdl = 4.674479216497116e-10
alterparam dut cgdo = 1.7503576451040733e-10
alterparam dut ckappas = 1.850599239867083
alterparam dut clc = 2.5037186568513396e-07
alterparam dut cle = 0.9134045050090072
alterparam dut dlc = 1*-6.863986587316926e-08
alterparam dut drout = 0.7297383455740676
alterparam dut dsub = 0.280912196164545
alterparam dut dvt0 = 16.01266100041332
alterparam dut dvt0w = 1*-0.29945297785815206
alterparam dut dvt1 = 0.743755196950255
alterparam dut dvt1w = 3.551021613505332
alterparam dut dvt2 = 1*-0.06779499301878941
alterparam dut dvt2w = 1*-0.04256002439936432
alterparam dut dwg = 7.678810326120608e-08
alterparam dut eta0 = 0.5125122217511631
alterparam dut etab = 1*-0.35814142549642974
alterparam dut k1 = 0.9449120154803429
alterparam dut k2 = 1*-0.004247299866097731
alterparam dut k3 = 1*-10.115780360825639
alterparam dut k3b = 18.742944084844396
alterparam dut keta = 1*-0.08668944244119323
alterparam dut lint = 8.611589677309176e-08
alterparam dut ll = 3.704288405158043e-14
alterparam dut moin = 21.84803310935873
alterparam dut ndep = 5.447941870043381e+17
alterparam dut nfactor = 1.5044140706545728
alterparam dut ngate = 8.491781930086034e+20
alterparam dut noff = 3.4386125888296655
alterparam dut pclm = 3.022532922481461e-05
alterparam dut pdiblc1 = 8.402571735168373e-06
alterparam dut pdiblc2 = 0.0003273173052349742
alterparam dut pdiblcb = 1*-0.9087160051690049
alterparam dut pvag = 3.1822060272702393
alterparam dut rdsw = 1200.3437867339883
alterparam dut toxp = 2.987677944864876e-09
alterparam dut u0 = 98.00606428655531
alterparam dut ua = 1*-1.004983815010914e-09
alterparam dut ub = 1.1726446600749707e-20
alterparam dut uc = 5.10001927089216e-09
alterparam dut voff = 1*-0.08695906680381132
alterparam dut voffcv = 0.09278710128966383
alterparam dut vsat = 41944.949238316396
alterparam dut vth0 = 0.14916055572903453
alterparam dut w0 = 6.564307128416267e-08
alterparam dut wint = 2.267383229233003e-08
alterparam dut ww = 1*-9.552789405006119e-14
alterparam dut wwl = 1*-9.547508184773693e-20
alterparam dut lwl = 4.824417983956279e-20
alterparam dut voffl = 1*-6.740885896679057e-08
alterparam dut xpart = 0.20826705618281016
alterparam dut bin_pvsat = 0.09585122103317967
alterparam dut bin_prdsw = 0.9152181485142344
alterparam dut bin_ppclm = 0.36173855858954496
alterparam dut bin_wketa = 0.13867979785770468
alterparam dut bin_lketa = 0.789855379129556
alterparam dut bin_pketa = 0.8989833629624898
alterparam dut bin_wk3 = 0.24620538483596688
alterparam dut bin_wk3b = 0.542048136443495
reset
** Model parameters end

** Declare the vectors to save.
save v(d_1_4) i(v_s_1_4)

** Write the header of the results file.
echo "v(d_1_4),i(v_s_1_4)" > /home/gazi/Desktop/Work/custom_packages/aivalanche/aivalanche_app/src/aivalanche_app/data_store/projects/projekti_1.gazi.20bf7dd9-e8f6-4d35-86d2-f717906dc109/models/modeli_1.15059f60-5751-4550-89d6-0db412e03fff/calibration_23_07_2024-23_07_29/simulation_files/dc_list_8.csv

** Start the simulation loop.
set values_list = ( 0.0 0.2 0.3 0.4 0.5 0.6 0.7 0.8 0.9 1.0 1.1 1.2 1.3 1.4 1.5 1.6 )
foreach val $values_list
    alter v_sweep $val
    op
    echo "$&v(d_1_4),$&i(v_s_1_4)" >> /home/gazi/Desktop/Work/custom_packages/aivalanche/aivalanche_app/src/aivalanche_app/data_store/projects/projekti_1.gazi.20bf7dd9-e8f6-4d35-86d2-f717906dc109/models/modeli_1.15059f60-5751-4550-89d6-0db412e03fff/calibration_23_07_2024-23_07_29/simulation_files/dc_list_8.csv
end

.endc
********** End of control section **********

.end